US06444829B1
(step 1) To a solution of 4.4 g (9.6 mmol) (2S,4R)-4-(4-Methoxy-benzylsulfanyl)-1-(naphthalene-2-sulfonyl)-pyrrolidine-2-carboxylic acid in 200 ml CH2Cl2 were added 1.2 g (10.8 mmol,1.1 eq) N-hydroxy-2-pyridone, followed by 2.2 g (10.7 mmol, 1.1 eq) N, N-dicyclohexylcarbodiimide in 25 ml CH2Cl2 at 0° C. over a period of 30 min. The suspension was stirred for additional 4 h at that temperature before 4.2 ml (33.0 mmol, 3.4 eq) NEM and 1.9 g (mmol, 1.05 eq) isobutylhydrazine.sulfate were added. The reaction mixture was stirred at RT over night. The suspension was treated with 0.55 ml (9.6 mmol, 1.0 eq) glacial acetic acid in 10 ml water and stirred for 1.5 h, diluted with aq. NaHCO3 (5%) and extracted with CH2Cl2. The combined organic phases were washed with 1M KHSO4 solution, water and brine, dried over Na2SO4 and evaporated. Tituration with hexane yields 5.02 g (quant) (2S,4R)-4-(4-Methoxy -benzylsulfanyl)-1-(naphthalene-2-sulfonyl)-pyrrolidine-2-carboxylic acid N′-isobutyl-hydrazide, which was directly subjected to the following reaction.

reactant | (2S,4R)-4-(4-Methoxy-benzylsulfanyl)-1-(naphthalene-2-sulfonyl)-pyrrolidine-2-carboxylic acid | 9.6 mmol, 4.4 g | COC1=CC=C(CS[C@@H]2C[C@H](N(C2)S(=O)(=O)C2=CC3=CC=CC=C3C=C2)C(=O)O)C=C1 | C23H23NO5S2
reactant | N-hydroxy-2-pyridone | 10.8 mmol, 1.2 g, 1.1 eq | ON1C(C=CC=C1)=O | C5H5NO2
reactant | isobutylhydrazine | 1.9 g, 1.05 eq | C(C(C)C)NN | C4H12N2
reactant | sulfate | S(=O)(=O)([O-])[O-]
reactant | acetic acid | 9.6 mmol, 0.55 ml, 1.0 eq | C(C)(=O)O | C2H4O2
solvent | CH2Cl2 | 200 ml | C(Cl)Cl | CH2Cl2
solvent | CH2Cl2 | 25 ml | C(Cl)Cl | CH2Cl2
solvent | water | 10 ml | O | H2O
solvent | NaHCO3 | C(=O)(O)[O-].[Na+]
product | (2S,4R)-4-(4-Methoxy -benzylsulfanyl)-1-(naphthalene-2-sulfonyl)-pyrrolidine-2-carboxylic acid N′-isobutyl-hydrazide | 5.02 g | C(C(C)C)NNC(=O)[C@H]1N(C[C@@H](C1)SCC1=CC=C(C=C1)OC)S(=O)(=O)C1=CC2=CC=CC=C2C=C1 | C27H33N3O4S2
